US05616586
4) 8-Bromo-5,6-dihydro-1H-pyrrolo[1,2,3-de]quinoxaline-2,3-dione
To a solution of 5-bromo-7-nitro-N-ethoxalylindoline (2.0 g, 5.83 mmol) in a mixture of THF (50 mL), water (10 mL), and acetic acid (10 mL) was added aqueous 20% titanium trichloride (31 mL, 40.8 mmol) and the mixture was stirred for 4 h at room temperature. The precipitates formed were collected by filtration, washed with diluted aqueous hydrochloric acid and then distilled water, and dried in vacuo to give 772 mg of the title compound (50%): mp>300° C.; 1H NMR (270 MHz, DMSO-d6) δ11.91 (bs, 1H), 7.21 (d, 1H, J=1 Hz), 7.02 (d, 1H, J=1 Hz), 4.22 (t, 2H, J=7 Hz), 3.32 (t, 2H, J=7 Hz).

reactant | 5-bromo-7-nitro-N-ethoxalylindoline | 5.83 mmol, 2.0 g | BrC=1C=C2CCN(C2=C(C1)[N+](=O)[O-])C(=O)C(=O)OCC | C12H11BrN2O5
reactant | water | 10 mL | O | H2O
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | titanium trichloride | 40.8 mmol, 31 mL | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 8-Bromo-5,6-dihydro-1H-pyrrolo[1,2,3-de]quinoxaline-2,3-dione | 772 mg, 50% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)CC2 | C10H7BrN2O2
